US06664291B2
4-(4-Amino-2,6-dichloro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol
To a solution of 4-(2,6-dichloro-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol (454 mg, 0.99 mmol) in a mixture of ethanol (10 mL) and EtOAc (20 mL) was added catalyst 10% Pd/C (100 mg). The mixture was hydrogenated under 45 psi at RT for 2 h. The mixture was filtered through Celite and concentrated to give the title compound of Step C (405 mg) as a solid. The title product of Step C was used in the next step without further purification. MS (APCl−) Calc.: 427.0, Found: 426.1 (M−1).

reactant | 4-(2,6-dichloro-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 0.99 mmol, 454 mg | ClC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])Cl | C18H10Cl2FNO6S
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(4-Amino-2,6-dichloro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 405 mg | NC1=CC(=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=C1)Cl)Cl | C18H12Cl2FNO4S
